US05951964
A 500 mL single-necked round-bottomed flask, equipped with stir bar, was charged with 9-phthalimido-N1,N4 -bis[2-methyl-2-(triphenylmethylthio)propyl]-1,4-diazanonane (8.83 g, 9.43 mmol) in 75 mL of CH3CN and 20 mL CH2Cl2. To this was added K2CO3 (1.30 g, 9,41 mmol, 100 mole %), followed by di-tert-butyl dicarbonate (2.15 g, 9.85 mmol, 104 mole %), and the reaction stirred at room temperature overnight. The reaction mixture was then concentrated and partitioned between 100 mL each of water and ethyl acetate. The organic layer was separated and the aqueous layer was further extracted with 50 mL ethyl acetate. The combined organic layers were washed once with brine (75 mL), dried over Na2SO4 and concentrated to give 9.69 g of crude 9-phthalimido-N'-(t-butoxycarbonyl)-N1,N4 -bis[2-methyl-2-(triphenylmethylthio)propyl]-1,4-diazanonane as a yellow foam (99% crude yield). This crude product was used without further purification.

reactant | 9-phthalimido-N1,N4 -bis[2-methyl-2-(triphenylmethylthio)propyl]-1,4-diazanonane | 9.43 mmol, 8.83 g | C1(C=2C(C(N1CCCCCN(CCNCC(C)(SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)CC(C)(C)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=CC=CC2)=O | C61H65N3O2S2
reactant | K2CO3 | 9,41 mmol, 1.30 g | C(=O)([O-])[O-].[K+].[K+]
reactant | di-tert-butyl dicarbonate | 9.85 mmol, 2.15 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH3CN | 75 mL | CC#N | C2H3N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 9-phthalimido-N'-(t-butoxycarbonyl)-N1,N4 -bis[2-methyl-2-(triphenylmethylthio)propyl]-1,4-diazanonane | 9.69 g | C1(C=2C(C(N1CCCCCN(CCN(CC(C)(SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)C(=O)OC(C)(C)C)CC(C)(C)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=CC=CC2)=O | C66H73N3O4S2
